US07157447B2
Ethyl 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylate.
To a stirred solution of intermediate 25, ethyl 3-hydroxy-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylate, (2.68 g, 10 mmol) and benzyl bromide (1.43 mL, 12 mmol) in DMF (40 mL) was added K2CO3 (2.07 g, 20 mmol). After stirring 48 h at ambient temperature, the reaction mixture was diluted with ether (100 mL), then washed with water (3×30 mL) and brine (20 mL). The organic layer was dried (Na2SO4/activated carbon), filtered and concentrated to give a yellow solid. Trituration with hexanes/ether (9:1) afforded the title compound as an off-white solid (2.79 g, 78% yield). 1H NMR (500 MHz, CDCl3) δ ppm: 7.48–7.45 (2H, m), 7.37–7.30 (3H, m), 5.25 (2H, s), 4.33 (2H, q, J=7.3 Hz), 4.05–3.99 (4H, m), 1.62 (6H, s), 1.29 (3H, t, J=7.3 Hz). HRMS (M+H) calcd for C19H23N2O5: 359.1607. found: 359.1611. Anal calcd for C19H22N2O5: C, 63.67; H, 6.18; N, 7.81. found: C, 63.63; H, 6.16; N, 7.78.

reactant | ethyl 3-hydroxy-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylate | 10 mmol, 2.68 g | OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)OCC | C12H16N2O5
reactant | benzyl bromide | 12 mmol, 1.43 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 20 mmol, 2.07 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | ether | 100 mL | CCOCC | C4H10O
product | Ethyl 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylate | 2.79 g, 78% yield | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)OCC | C19H22N2O5
